### PR TITLE
refactor: rename `ConcreteGame` → `GameGraph`

### PR DESCRIPTION
**Pull request by vihdzp**
The design of this type has changed quite a lot over time. In its existing state, I think describing it as a game graph outright is quite reasonable.

### CODE REVIEW

File: CombinatorialGames/Game/Specific/Closure.lean [hunk 1]
```diff
@@ -0,0 +1,90 @@
...
+  @Subrelation.isWellFounded _ _ ⟨InvImage.wf _ H.wf⟩ _ (subrelation_rel_gt f)
+
+instance (f : ClosureOperator (Set α)) [WellFoundedGT f.Closeds] :
+    IsWellFounded _ (closureGame f).IsOption := by
+  rw [isOption_eq]
+  infer_instance
+
+theorem toLGame_congr (h : f s = f t) :
+    (closureGame f).toLGame s = (closureGame f).toLGame t := by
+  sorry
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Specific/Closure.lean]: ?

Comment (vihdzp) [reply CombinatorialGames/Game/Specific/Closure.lean]: Must have pushed that to the wrong branch, lemme revert.

**Review by tristan-f-r — APPROVED** [review]
